US04463005
A mixture of thiocytosine (0.7 g.), sodium hydroxide(0.22 g.) and 4-(3-chloropropyl)imidazole (0.8 g.) was stirred in EtOH (8 ml.) and water (8 ml.) at room temperature for 16 hours and then heated under reflux for 2 hours. The solution was evaporated to dryness and the residue partitioned between dilute aqueous sodium hydroxide (20 ml.) and EtOAc (30 ml.). The EtOAc layer was evaporated to dryness to give 4-[3-(4-aminopyrimid-2-ylthio)propyl]imidazole as a brown gum which was used without further purification.

reactant | thiocytosine | 0.7 g | N1C(=S)N=C(N)C=C1 | C4H5N3S
reactant | sodium hydroxide | 0.22 g | [OH-].[Na+]
reactant | 4-(3-chloropropyl)imidazole | 0.8 g | ClCCCC=1N=CNC1 | C6H9ClN2
reactant | water | 8 ml | O | H2O
solvent | EtOH | 8 ml | CCO | C2H6O
product | 4-[3-(4-aminopyrimid-2-ylthio)propyl]imidazole | NC1=NC(=NC=C1)SCCCC=1N=CNC1 | C10H13N5S
